US05691277
Synthesis of 4-methoxy-2,6-di(meta-trifluoromethylphenoxy)-pyridine (I-18)
To meta-trifluoromethyl phenol (2.5 g, 0.0028×5.5 mol), 15 ml of dimethylformamide was added, followed by the addition of sodium hydride (0.45 g (ca.60% in mineral oil), 0.0028×4.0 mol) and CuI (0.25 g, 0.0028×0.47 mol). To thus formed mixture was added 2,6-dichloro-4-methoxy-pyridine (0.5 g, 0.0028 mol), and the resultant solution was refluxed for about 8 hours.

reactant | meta-trifluoromethyl phenol | 5.5 mol, 2.5 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 4.0 mol, 0.45 g | [H-].[Na+]
reactant | 2,6-dichloro-4-methoxy-pyridine | 0.0028 mol, 0.5 g | ClC1=NC(=CC(=C1)OC)Cl | C6H5Cl2NO
catalyst | CuI | 0.47 mol, 0.25 g | [Cu]I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-2,6-di(meta-trifluoromethylphenoxy)-pyridine | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)OC1=CC(=CC=C1)C(F)(F)F | C20H13F6NO3
